US09029544B2
(S)—((S)-5-(tert-butyldimethylsilyloxy)-4-iodo-7,7-dimethyl-2-(tetrahydro-2H-pyran-4-yl)-5,6,7,8-tetrahydroquinolin-3-yl)(4-tert-butylphenyl)methanol
Obtained by starting from (S)-5-(tert-butyldimethylsilyloxy)-4-iodo-7,7-dimethyl-2-(tetrahydro-2H-pyran-4-yl)-5,6,7,8-tetrahydroquinoline-3-carbaldehyde and 4-tert.-butyl-iodo-benzene.

reactant | (S)-5-(tert-butyldimethylsilyloxy)-4-iodo-7,7-dimethyl-2-(tetrahydro-2H-pyran-4-yl)-5,6,7,8-tetrahydroquinoline-3-carbaldehyde | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C1CCOCC1)C=O)I | C23H36INO3Si
reactant | 4-tert.-butyl-iodo-benzene | C(C)(C)(C)C1=CC=C(C=C1)I | C10H13I
product | (S)—((S)-5-(tert-butyldimethylsilyloxy)-4-iodo-7,7-dimethyl-2-(tetrahydro-2H-pyran-4-yl)-5,6,7,8-tetrahydroquinolin-3-yl)(4-tert-butylphenyl)methanol | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C1CCOCC1)[C@@H](O)C1=CC=C(C=C1)C(C)(C)C)I | C33H50INO3Si
